US08729095B2
To a tetrahydrofuran (48 ml) and water (24 ml) mixed solvent suspension of benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-chlorobiphenyl-4-carboxylate (2.40 g) was added lithium hydroxide monohydrate (224 mg). After the reaction solution was stirred at 60° C. for 17 hours, lithium hydroxide monohydrate (112 mg) was further added, and stirred at 60° C. for 6 hours. Tetrahydrofuran (40 ml) was further added, and stirred at 60° C. for 1 hour. After the reaction solution was brought back to room temperature, an aqueous ammonium chloride solution and dichloromethane were added, and the solution was separated. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Methanol was added to the resulting residue, and diluted with a large amount of water. The precipitated solid was collected by filtration and dried to afford 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-chlorobiphenyl-4-carboxylic acid (1.69 g).

reactant | benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-chlorobiphenyl-4-carboxylate | 2.40 g | C(C)(C)(C)OC(C(COC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)Cl)(C)C)=O | C29H31ClO5
reactant | lithium hydroxide monohydrate | 224 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 112 mg | O.[OH-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 24 ml | O | H2O
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
product | 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-chlorobiphenyl-4-carboxylic acid | 1.69 g | C(C)(C)(C)OC(C(COC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)Cl)(C)C)=O | C22H25ClO5
